US07625900B2
A mixture of (1.0 g, 5.0 mmol) of 1-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine, 2-bromoacetic acid ethyl ester (587 μl, 5.3 mmol) and potassium carbonate (1.74 g, 12.6 mmol) in acetonitrile (20 ml) was heated for 2 h under reflux. Water (10 ml) and EA (20 ml) were then added, stirring was carried out for 15 min, and the phases were separated. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. 1.38 g of 2-(1-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazin-2(1H)-yl)acetic acid methyl ester were obtained as residue and used in the next step without further purification.

reactant | 1-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine | 5.0 mmol, 1.0 g | C1(=CC=CC=C1)C1C=2N(CCN1)C=CC2 | C13H14N2
reactant | 2-bromoacetic acid ethyl ester | 5.3 mmol, 587 μl | C(C)OC(CBr)=O | C4H7BrO2
reactant | potassium carbonate | 12.6 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 10 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | EA | 20 ml | CC(OCC)=O | C4H8O2
product | 2-(1-phenyl-3,4-dihydropyrrolo[1,2-a]pyrazin-2(1H)-yl)acetic acid methyl ester | 1.38 g | COC(CN1C(C=2N(CC1)C=CC2)C2=CC=CC=C2)=O | C16H18N2O2
